US07253286B2
4-(6-Phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)phenylamine
After adding 110 mg of iron powder, 220 mg of ammonium chloride, 10 ml of ethanol and 2 ml of water to 110 mg of 4-(4-nitrophenoxy)-6-phenyl-7H-pyrrolo[2,3-d]pyrimidine, the mixture was stirred at 80–85° C. for 2.5 hours. After returning the mixture to room temperature, 20 ml of tetrahydrofuran was added, and the mixture was stirred for 5 minutes and filtered with celite, after which 100 ml of ethyl acetate and 50 ml of water were added to the filtrate for liquid separation and extraction. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, filtered with plug cotton and concentrated to dryness to obtain 90 mg of the title compound.

reactant | ammonium chloride | 220 mg | [Cl-].[NH4+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | water | 2 ml | O | H2O
reactant | 4-(4-nitrophenoxy)-6-phenyl-7H-pyrrolo[2,3-d]pyrimidine | 110 mg | [N+](=O)([O-])C1=CC=C(OC=2C3=C(N=CN2)NC(=C3)C3=CC=CC=C3)C=C1 | C18H12N4O3
catalyst | iron | 110 mg | [Fe] | Fe
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(6-Phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)phenylamine | 90 mg | C1(=CC=CC=C1)C1=CC2=C(N=CN=C2OC2=CC=C(C=C2)N)N1 | C18H14N4O
